### PR TITLE
Natural

### PR DESCRIPTION
**Pull request by benediktahrens**
subsumes #43

### CODE REVIEW

File: TypeTheory/Auxiliary/Auxiliary.v [hunk 1]
```diff
@@ -68,6 +68,15 @@ Arguments functor_on_inv_from_iso {_ _} _  {_ _} f.
 
 (** * Path-algebra: general lemmas about transport, equivalences, etc. *)
 
+Lemma total2_paths2 {A : UU} {B : A -> UU} {a1 : A} {b1 : B a1}
```
Comment (DanGrayson) [inline TypeTheory/Auxiliary/Auxiliary.v]: This name conflicts with one in PartA.

File: TypeTheory/Displayed_Cats/Constructions.v [hunk 2]
```diff
@@ -27,7 +27,7 @@ Local Set Automatic Introduction.
 
 Section Auxiliary.
 
-(** Compare [total2_paths_f2], [total2_paths_b]. *)
+(** Compare [total2_paths_f], [total2_paths_b]. *)
 (* TODO: perhaps upstream. *)
 Lemma total2_paths2_b {A : UU} {B : A → UU}
```
Comment (DanGrayson) [inline TypeTheory/Displayed_Cats/Constructions.v]: See PartA for this one:

```
Lemma total2_paths2_b {A : UU} {B : A -> UU} {a1 : A} {b1 : B a1}
  {a2 : A} {b2 : B a2} (p : a1 = a2)
  (q : b1 = transportb B p b2) : a1,,b1 = a2,,b2.
Proof.
  intros. exact (two_arg_paths_b p q).
Defined.
```
